US07612114B2
6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)ethoxy]benzyl}methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-bromoethanone (22 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (15 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | OC1=CC=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C30H33NO5
reactant | 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-bromoethanone | 22 mg | C12CCC(CC1)N2C(CBr)=O | C8H12BrNO
product | 6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)ethoxy]benzyl}methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 15 mg | C12CCC(CC1)N2CCOC2=CC=C(CCNC1=C(C=CC(=C1)OC)C1CC=3C=CC(=CC3CC1)O)C=C2 | C33H40N2O3
